data/polar.json
{"reaction_name": "Debus–Radziszewski imidazole synthesis", "rsmi": "[O:1]=[C:2]([H:9])[C:3]([H:10])=[O:4].[CH3:5][C:6]([H:11])=[O:7].[N:8]([H:12])([H:13])[H:14].[N:15]([H:16])([H:17])[H:18]>>[CH3:5][c:6]1[n:8][c:2]([H:9])[c:3]([H:10])[n:15]([H:18])1.[O:1]([H:14])[H:16].[O:4]([H:12])[H:17].[O:7]([H:13])[H:11]", "epd": [["Pi-/Sigma+", [1, 2], [1, 14]], ["Sigma-/Sigma+", [1, 2], [1, 16]], ["Pi-/Pi+", [3, 4], [2, 3]], ["Sigma-/Sigma+", [3, 4], [3, 15]], ["Sigma-/Sigma+", [15, 17], [4, 17]], ["Sigma-/Sigma+", [8, 12], [4, 12]], ["Pi-/Sigma+", [6, 7], [6, 8]], ["Sigma-/Sigma+", [6, 11], [7, 11]], ["Sigma-/Sigma+", [6, 7], [7, 13]], ["Sigma-/Sigma+", [15, 16], [6, 15]], ["Sigma-/Pi+", [8, 13], [6, 8]], ["Sigma-/Sigma+", [8, 14], [2, 8]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[CH2:2]1[N:13]2[CH2:3][CH2:17][N:5]([CH2:35][c:9]3[cH:20][cH:25][cH:31][cH:26][cH:21]3)[c:29]3[c:11]2[c:28]([cH:14][n:12][cH:15]3)[N:4]([CH2:34][c:8]2[cH:19][cH:24][cH:30][cH:27][cH:22]2)[CH2:16]1.[cH:1]1[cH:6][cH:32][c:23]([N+:10](=[CH2:18])[CH3:36])[cH:33][cH:7]1>>[cH:1]1[cH:6][cH:32][c:23]([N:10]([CH2:18][N:12]2[CH:14]=[C:28]3[N:4]([CH2:34][c:8]4[cH:19][cH:24][cH:30][cH:27][cH:22]4)[CH2:16][CH2:2][N+:13]4=[C:11]3[C:29](=[CH:15]2)[N:5]([CH2:35][c:9]2[cH:20][cH:25][cH:31][cH:26][cH:21]2)[CH2:17][CH2:3]4)[CH3:36])[cH:33][cH:7]1", "epd": [["LP-/Pi+", [13], [11, 13]], ["Pi-/Pi+", [28, 11], [14, 28]], ["Pi-/Sigma+", [12, 14], [12, 18]], ["Pi-/LP+", [18, 10], [10]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[O-:1][C:21](=[CH:2][c:9]1[cH:13][cH:5][cH:28][cH:6][cH:14]1)[O:26][CH2:29][CH3:11].[O-:3][n+:10]1[o:24][n:18][c:12]2[c:16]3[n+:8]([O-:19])[o:4][n:22][c:17]3[c:20]([N+:7]([O-:23])=[O:25])[cH:15][c:27]12>>[O:1]=[C:21]([CH:2]([c:9]1[cH:13][cH:5][cH:28][cH:6][cH:14]1)[CH:15]1[C:20](=[N+:7]([O-:23])[O-:25])[c:17]2[c:16]([n+:8]([O-:19])[o:4][n:22]2)-[c:12]2[n:18][o:24][n+:10]([O-:3])[c:27]21)[O:26][CH2:29][CH3:11]", "epd": [["LP-/Pi+", [1], [21, 1]], ["Pi-/Sigma+", [2, 21], [2, 15]], ["Pi-/Pi+", [15, 20], [20, 7]], ["Pi-/LP+", [7, 25], [25]]]}
{"reaction_name": "Electrophilic chlorination", "rsmi": "[C:2]1([Cl:5])([Cl:6])[CH:16]=[C:20]([Cl:21])[c:22]2[cH:3][cH:9][cH:19][n:4][c:15]2[C:18]1=[O:13].[CH:1]1=[CH:7][c:8]2[cH:12][cH:11][cH:23][cH:10][c:14]2[CH:24]1[Na:17]>>[CH:1]1=[CH:7][c:8]2[cH:12][cH:11][cH:23][cH:10][c:14]2[CH:24]1[Cl:5].[Na+:17].[c:2]1([Cl:6])[cH:16][c:20]([Cl:21])[c:22]2[cH:3][cH:9][cH:19][n:4][c:15]2[c:18]1[O-:13]", "epd": [["Sigma-/Sigma+", [24, 17], [24, 5]], ["Sigma-/Pi+", [5, 2], [2, 18]], ["Pi-/LP+", [18, 13], [13]]]}
{"reaction_name": "π-Nucleophile capture of a preformed localized carbocation", "rsmi": "[N-:1]=[N+:8]=[C:11]1[CH:9]=[CH:2][CH:3]=[CH:10]1.[cH:4]1[c:12]([CH+:24][c:13]2[cH:5][c:16]([F:20])[cH:23][c:17]([F:21])[cH:6]2)[cH:7][c:14]([F:18])[cH:22][c:15]1[F:19]>>[N:1]#[N+:8][C:11]1=[CH:10][CH:3]=[CH:2][CH:9]1[CH:24]([c:12]1[cH:4][c:15]([F:19])[cH:22][c:14]([F:18])[cH:7]1)[c:13]1[cH:5][c:16]([F:20])[cH:23][c:17]([F:21])[cH:6]1", "epd": [["LP-/Pi+", [1], [8, 1]], ["Pi-/Pi+", [11, 8], [10, 11]], ["Pi-/Pi+", [3, 10], [2, 3]], ["Pi-/Sigma+", [9, 2], [9, 24]]]}
{"reaction_name": "Selectfluor fluorination", "rsmi": "[CH2:1]([N+:5]12[CH2:11][CH2:15][N+:9]([F:4])([CH2:16][CH2:12]1)[CH2:17][CH2:13]2)[Cl:18].[cH:2]1[cH:6][c:7]2[c:20]([cH:10][cH:21]1)[CH:19]=[CH:3][CH:14]2[Li:8]>>[CH2:1]([N+:5]12[CH2:11][CH2:15][N:9]([CH2:16][CH2:12]1)[CH2:17][CH2:13]2)[Cl:18].[Li+:8].[cH:2]1[cH:6][c:7]2[c:20]([cH:10][cH:21]1)[CH:19]=[CH:3][CH:14]2[F:4]", "epd": [["Sigma-/Sigma+", [14, 8], [14, 4]], ["Sigma-/LP+", [4, 9], [9]]]}
{"reaction_name": "Michael addition", "rsmi": "[O-:7][c:20]1[cH:13][c:11](=[O:15])[n:21]([CH3:9])[c:17](=[O:8])[n:24]1[CH3:16].[O:1]=[N+:23]([O-:6])[c:18]1[cH:2][cH:4][c:10]([CH:19]=[CH:12][N+:14]([O-:22])=[O:25])[cH:5][cH:3]1>>[O:1]=[N+:23]([O-:6])[c:18]1[cH:2][cH:4][c:10]([CH:19]([CH:12]=[N+:14]([O-:22])[O-:25])[CH:13]2[C:11](=[O:15])[N:21]([CH3:9])[C:17](=[O:8])[N:24]([CH3:16])[C:20]2=[O:7])[cH:5][cH:3]1", "epd": [["LP-/Pi+", [7], [20, 7]], ["Pi-/Sigma+", [13, 20], [13, 19]], ["Pi-/Pi+", [19, 12], [12, 14]], ["Pi-/LP+", [14, 25], [25]]]}
{"reaction_name": "Favorskii rearrangement", "rsmi": "[CH3:1][C:2](=[O:3])[CH2:4][Cl:5].[O-:6][H:7]>>[CH3:1][CH2:4][C:2](=[O:3])[O:6][H:7].[Cl-:5]", "epd": [["Sigma-/LP+", [4, 5], [5]], ["Sigma-/Sigma+", [1, 2], [1, 4]], ["Pi-/LP+", [2, 3], [3]], ["LP-/Pi+", [3], [2, 3]], ["LP-/Sigma+", [6], [2, 6]]]}
